US05093353
3-(4-acetoxyphenoxy)-1-bromopropane
A mixture of 1.52 g (10 mmol) of 4-acetoxyphenol, 2.22 g (11 mmol) 1,3-dibromopropane, and 2.98 g (21 mmol) of anhydrous potassium carbonate in dimethylformamide was stirred rapidly at room temperature for 4 hours. Ethyl acetate was added, and the salts present were removed by filtration. The solvent was removed under reduced pressure, and the residue chromatographed over silica gel. Elution with 15% ethyl acetate-hexane gave 270 mg of the title compound, which was homogeneous by thin layer chromatography (15% by volume of ethyl acetate/hexane on silica gel plates).

reactant | 4-acetoxyphenol | 10 mmol, 1.52 g | C(C)(=O)OC1=CC=C(C=C1)O | C8H8O3
reactant | 1,3-dibromopropane | 11 mmol, 2.22 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 21 mmol, 2.98 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(4-acetoxyphenoxy)-1-bromopropane | 270 mg | C(C)(=O)OC1=CC=C(OCCCBr)C=C1 | C11H13BrO3
